*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1608/C0G/220pF/50V
* Murata P/N :GRM1885C1H221JA01
* Property : C = 220[pF]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100000000Hz-8500000000Hz
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM1885C1H221JA01 1 2
C1 P1 11 2.20e-10
L2 11 12 8.00e-11
R3 12 13 3.80e-2
C4 13 14 1.48e-8
R4 13 14 1.07e-1
L5 14 15 4.74e-11
R5 14 15 1.34e-1
L6 15 16 6.44e-11
R6 15 16 1.90
C7 16 17 5.02e-13
L7 16 17 4.20e-10
C8 17 18 2.64e-11
L8 17 18 9.76e-12
R8 17 18 1.59
C9 18 19 2.82e-10
L9 18 19 2.63e-11
R9 18 19 8.59e-1
C10 19 2 2.97e-9
L10 19 2 6.55e-12
R10 19 2 2.11e-1
R100 1 11 1.00e+10
.ENDS GRM1885C1H221JA01
